US05049682
To a 1-l three-necked flask, equipped with a mechanical stirrer, a condenser with a gas outlet and an equa-pressured addition funnel, is charged 166.5 g (1 mole) of 4-chlorotetrahydrophthalonitrile and 75 g of chlorobenzene. The mixture is heated to 100°-110° C. with stirring. Bromine, 320 g (2 moles), is added dropwise into the mixture in a sub-surface manner. The red color of bromine dissipates quickly and a gas evolution starts. After about 240 g of bromine is added, the pot temperature is heated to 135° C. The addition of bromine continues until completion. The pot temperature is then raised to 165°-170° C. for 2-4 hours. During this period an additional amount of bromine, such as about 10 to 15 g, may be added to complete the conversion of 4-chlorotetrahydro-phthalonitrile. A good yield of 4-chlorophthalonitrile can be obtained by distilling out the chlorobenzene.

reactant | 4-chlorotetrahydrophthalonitrile | 1 mole, 166.5 g | ClC1CC(C(C#N)C=C1)C#N | C8H7ClN2
reactant | Bromine | BrBr | Br2
reactant | bromine | about 240 g | BrBr | Br2
solvent | chlorobenzene | 75 g | ClC1=CC=CC=C1 | C6H5Cl
product | 4-chlorophthalonitrile | ClC=1C=C(C(C#N)=CC1)C#N | C8H3ClN2
